US06858638B2
2-Methylsulfonyl-N-(3-phenylethynyl-1H-indazol-5-yl)benzenesulfonamide can be obtained in the following way: 0.23 g of 2-methylsulfonylbenzenesulfonyl chloride is added to a solution, at a temperature in the region of 0° C. and under argon, of 0.2 g of 5-amino-3-phenylethynyl-1H-indazole in 3.5 ml of pyridine. The reaction mixture is then stirred for 1.5 hours at 0° C. and then 2 hours at a temperature in the region of 20° C., and is then diluted with 10 ml of water. After settling out, the aqueous phase is washed with 3 times 15 ml of ethyl acetate. The organic extracts are pooled, washed with 3 times 5 ml of water, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 20° C. The residue thus obtained is purified by chromatography under argon pressure (50 kPa), on a cartridge of 25 g of silica (particle size 20-40 μm), eluting with pure dichloromethane then successively with dichloromethane/methanol (99.5/0.5; 99/1 by volume) mixtures. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 20° C. The residue is recrystallized from 5 ml of isopropanol in the presence of 3S black. The crystals are filtered through sintered glass, washed with diisopropyl ether, partially dried, and then dried under reduced pressure (3 kPa) at a temperature in the region of 50° C. for 2 hours. 66 mg of 2-methylsulfonyl-N-(3-phenylethynyl-1H-indazol-5-yl)benzenesulfonamide are obtained in the form of an off-white powder melting at 198° C. (analysis C22H17N3O4S2 % calculated C, 58.52; H, 3.79; N, 9.31; O, 14.17; S, 14.20. % found C, 58.37; H, 3.88; N, 9.11; S, 13.73).

reactant | 2-methylsulfonylbenzenesulfonyl chloride | 0.23 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | 5-amino-3-phenylethynyl-1H-indazole | 0.2 g | NC=1C=C2C(=NNC2=CC1)C#CC1=CC=CC=C1 | C15H11N3
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 10 ml | O | H2O
product | 2-methylsulfonyl-N-(3-phenylethynyl-1H-indazol-5-yl)benzenesulfonamide | 66 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C#CC1=CC=CC=C1 | C22H17N3O4S2
